US07291631B2
Under an atmosphere of Ar, 1-(2-pyridin-2-yl-ethyl)-1H-benzimidazole (0.46 g, 2.1 mmol) (Ichikawa, M. et al. Chem. Pharm. Bull. 1981, 29, 3042-7) was dissolved in anhydrous THF (10 mL), cooled to −40° C., and treated with tert-BuLi (1.5 mL, 1.7M, 2.5 mmol) for 30 minutes. DMF (0.80 mL, 10.3 mmol) was then added and the solution slowly warmed to room temperature. After 1 hour, water (10 mL) and saturated aqueous NaHCO3 solution (10 mL) were added and the medium was extracted with EtOAc (3×25 mL). The combined organic phases were then dried (MgSO4), filtered, and concentrated under reduced pressure. The crude product was then purified by column chromatography with silica gel (50:1:0.1 MeOH:NH4OH:CH2Cl2) to afford 1-(2-pyridin-2-yl-ethyl)-1H-benzimidazole-2-carbaldehyde as a brown liquid that was used immediately in the next reaction (147 mg, 28%).

reactant | 1-(2-pyridin-2-yl-ethyl)-1H-benzimidazole | 2.1 mmol, 0.46 g | N1=C(C=CC=C1)CCN1C=NC2=C1C=CC=C2 | C14H13N3
reactant | tert-BuLi | 2.5 mmol, 1.7M, 1.5 mL | [Li]C(C)(C)C
reactant | DMF | 10.3 mmol, 0.80 mL | CN(C)C=O | C3H7NO
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | 1-(2-pyridin-2-yl-ethyl)-1H-benzimidazole-2-carbaldehyde | N1=C(C=CC=C1)CCN1C(=NC2=C1C=CC=C2)C=O | C15H13N3O
